US07786144B2
To a magnetically stirred solution of ethyl 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-methylsulfanyl-1H-pyrazole-3-carboxylate (4.9 g, 11 mmol) in tetrahydrofuran (100 ml) was added LiOH.H2O (0.47 gram, 11 mmol) and the resulting mixture was reacted for 20 hours at 35° C. and subsequently concentrated in vacuo. The obtained crude lithium 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-methylsulfanyl-1H-pyrazole-3-carboxylate was used in the next step.

reactant | ethyl 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-methylsulfanyl-1H-pyrazole-3-carboxylate | 11 mmol, 4.9 g | ClC1=CC=C(C=C1)C1=C(C(=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC)SC | C19H15Cl3N2O2S
reactant | LiOH.H2O | 11 mmol, 0.47 gram | O[Li].O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | lithium 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-methylsulfanyl-1H-pyrazole-3-carboxylate | ClC1=CC=C(C=C1)C1=C(C(=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)[O-])SC.[Li+] | InChI=1S/C17H11Cl3N2O2S.Li/c1-25-16-14(17(23)24)21-22(13-7-6-11(19)8-12(13)20)15(16)9-2-4-10(18)5-3-9;/h2-8H,1H3,(H,23,24);/q;+1/p-1
